US07667039B2
4-[1,2,4]triazol-1-yl-phenylamine
The title compound is obtained as described in Example 18a/b using 1-fluoro-4-nitro-benzene (Fluka, Buchs, Switzerland) and 1,2,4-triazole (Fluka, Buchs, Switzerland). Title compound: ES-MS: 161.2 (M+H)+; analytical HPLC: tret=3.29 minutes (Grad 2).

reactant | 1-fluoro-4-nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 4-[1,2,4]triazol-1-yl-phenylamine | N1(N=CN=C1)C1=CC=C(C=C1)N | C8H8N4
